US08084448B2
A. 5-{2-Benzyloxy-4-[1-(2,4,6-trimethylphenyl)-ethyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 1,3,5-trimethyl-2-vinylbenzene (0.058 mL, 0.36 mmol), 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (80 mg, 0.18 mmol), Pd(OAc)2 (5 mg, 0.09 mmol) and triethylamine (0.13 mL, 0.9 mmol) in acetonitrile (1.5 mL) is heated in a microwave apparatus at 120° C. for 1 h. The mixture is filtered over Celite and the filtrate is evaporated to give the title compound which is used directly in the next step.

reactant | 1,3,5-trimethyl-2-vinylbenzene | 0.36 mmol, 0.058 mL | CC1=C(C(=CC(=C1)C)C)C=C | C11H14
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.18 mmol, 80 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | triethylamine | 0.9 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.09 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-{2-Benzyloxy-4-[1-(2,4,6-trimethylphenyl)-ethyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C1=C(C=C(C=C1C)C)C)N1CC(NS1(=O)=O)=O | C26H28N2O4S
